US09290454B2
Copper (II) acetate (67.5 mg, 0.371 mmol, 1.10 equiv.) and 4-fluorophenylboronic acid (95 mg, 0.675 mmol, 2.00 equiv.) were added to a stirred mixture of methyl 2-(6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate (100 mg, 0.338 mmol) and pyridine (54.6 μl, 0.675 mmol, 2.00 equiv.) in CH2Cl2 (3 mL) and the mixture was stirred in air at room temperature overnight in the presence of 4 Å molecular sieves. 1 N HCl (3 mL) was added to the reaction mixture and extracted with DCM (2×5 mL), dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 0-15-20% EtOAc/hexanes to give 34 mg of methyl 2-(6-bromo-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate as a pale yellow solid.

reactant | 4-fluorophenylboronic acid | 0.675 mmol, 95 mg, 2.00 equiv. | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | methyl 2-(6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate | 0.338 mmol, 100 mg | BrC=1C=C2C=C(NC(C2=CC1)=O)CC(=O)OC | C12H10BrNO3
reactant | pyridine | 0.675 mmol, 54.6 μl, 2.00 equiv. | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1 N, 3 mL | Cl | ClH
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Copper (II) acetate | 0.371 mmol, 67.5 mg, 1.10 equiv. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | methyl 2-(6-bromo-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate | 34 mg | BrC=1C=C2C=C(N(C(C2=CC1)=O)C1=CC=C(C=C1)F)CC(=O)OC | C18H13BrFNO3
